US09421205B2
(d) tert-Butyl 4-(4-((4-((3-carbamoylphenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate (I145)
tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate (I94) (0.30 g, 0.64 mmol), 3-ethynylbenzamide (I144) (102 mg, 0.70 mmol), copper(I) iodide (12 mg, 10 mol %), triphenylphosphine (17 mg, 10 mol %), bis(triphenylphosphine)palladium(II) chloride (22 mg, 5 mol %), DMF (3 mL) and triethylamine (0.443 mL, 3.18 mmol) were loaded into a microwave tube and degassed with nitrogen for five minutes. The resulting mixture was heated under microwave irradiation at 120° C. for 15 minutes then cooled to room temperature. The cooled mixture was added to 5% aqueous potassium carbonate (150 mL) and the resulting mixture extracted with ethyl acetate (3×150 mL). The combined ethyl acetate phases were washed with water (200 mL), brine (200 mL), dried then evaporated. The residue was chromatographed (Biotage Isolera: 12 g silica cartridge, 20-100% ethyl acetate/petroleum benzine 40-60° C. then 0-10% methanol/ethyl acetate) to give the title compound (I145) (107 mg, 29% yield) as a yellow solid; 1H NMR (400 MHz, d6-DMSO) δ 10.46 (s, 1H), 8.84 (s, 1H), 8.17 (s, 1H), 8.09 (t, J=1.7 Hz, 1H), 8.04 (dt, J=7.9, 1.4 Hz, 1H), 7.77 (dt, J=7.8, 1.3 Hz, 1H), 7.71-7.66 (m, 2H), 7.66-7.52 (m), 7.27 (d, J=8.6 Hz, 2H), 3.44 (s, 2H), 2.33-2.26 (m, 4H), 1.38 (s, 9H). LCMS Method C: rt 5.06 min; m/z 581.1 [M+H]+, 525.1 [M-tBu+2H]+; m/z 579.2 [M−H]−.

reactant | tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate | 0.64 mmol, 0.30 g | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H25ClF3N5O2
reactant | 3-ethynylbenzamide | 0.70 mmol, 102 mg | C(#C)C=1C=C(C(=O)N)C=CC1 | C9H7NO
reactant | triphenylphosphine | 17 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 3.18 mmol, 0.443 mL | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 12 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 22 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-((4-((3-carbamoylphenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate | 29% yield | C(N)(=O)C=1C=C(C=CC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C30H31F3N6O3
